US05578607
A mixture of 2,5-dimethyl-4-nitroaniline (0.96 g), ferric chloride hexahydrate (2.50 g), zinc chloride (0.094 g), concentrated hydrochloric acid (0.481 mL), and ethanol (8 mL) is heated to 60° C. 1,3,3-trimethoxybutane (0.73 mL) is added dropwise while the reaction mixture is kept at 60° C. The reaction mixture is heated at reflux overnight and cooled to room temperature. A solution of 10% aqueous sodium hydroxide is added, and the mixture is extracted three times with methylene chloride. The combined organic layers are dried over sodium sulfate, filtered and evaporated to afford a crude product. The crude product is purified by flash chromatography using 25% ethyl acetate in hexane as eluent, providing 6-nitro-4,5,8-trimethylquinoline.

reactant | 2,5-dimethyl-4-nitroaniline | 0.96 g | CC1=C(N)C=C(C(=C1)[N+](=O)[O-])C | C8H10N2O2
reactant | hydrochloric acid | 0.481 mL | Cl | ClH
reactant | 1,3,3-trimethoxybutane | 0.73 mL | COCCC(C)(OC)OC | C7H16O3
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | zinc chloride | 0.094 g | [Cl-].[Zn+2].[Cl-]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 6-nitro-4,5,8-trimethylquinoline | [N+](=O)([O-])C=1C(=C2C(=CC=NC2=C(C1)C)C)C | C12H12N2O2
